US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (200 mg, 0.770 mmol), (2-pyrrolidin-4-ylphenyl)methylamine (156 mg, 0.885 mmol), Pd2(dba)3 (71 mg, 0.077 mmol), rac-BINAP (155 mg, 0.249 mmol) and NaOtBu (198 mg, 2.060 mmol) in DMA (6 mL) was heated at 85° C. for 1.5 h. The mixture was allowed to cool, diluted with EtOAc and washed with water. The organic layer was washed with sat.aq. NaHCO3, brine and dried (Na2SO4). Chromatography (Hexanes/EtOAc) afforded 4-chloro-6-(2-pyrrolidin-1-yl-benzylamino)-2H-phthalazin-1-one (35 mg) as a white solid. 1H (400 MHz, d6-DMSO) δ: 1.90 (m, 4H), 3.16 (m, 4H), 4.38 (d, 2H), 6.73 (bs, 1H), 6.87 (d, 1H), 7.00 (d, 1H), 7.14 (m, 2H), 7.26 (dd, 1H), 7.64 (t, 1H), 7.90 (d, 1H), 12.32 (s, 1H) ppm; m/z (M+1) 355.23.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.770 mmol, 200 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | (2-pyrrolidin-4-ylphenyl)methylamine | 0.885 mmol, 156 mg | N1CCC(C1)C1=C(C=CC=C1)CN | C11H16N2
reactant | rac-BINAP | 0.249 mmol, 155 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 2.060 mmol, 198 mg | CC(C)(C)[O-].[Na+]
reactant | DMA | 6 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.077 mmol, 71 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-chloro-6-(2-pyrrolidin-1-yl-benzylamino)-2H-phthalazin-1-one | 35 mg | ClC1=NNC(C2=CC=C(C=C12)NCC1=C(C=CC=C1)N1CCCC1)=O | C19H19ClN4O
